US06559145B2
Methyl 6-(4-Morpholinylmethyl)-4-oxo-1-phenyl-1,4-dihydrothieno[2,3-c]-pyridazine-3-carboxylate [BO.2, aryl=phenyl, Y=morpholinylmethyl]
To a solution of methyl (2Z)-3-(2-chloro-5-(4-morpholinylmethyl)-3-thienyl)-3-oxo-2-(phenylhydrazono)propanoate (Preparation 65, 2.67 g) in dry THF (150 mL) is added NaH (0.43 g; 60% dispersion in mineral oil) portionwise at ambient temperature. The reaction is continued overnight and the solvent is removed in vacuo. Water (50 mL) is added to residue and the aqueous layer is extracted with EtOAc (3×50 mL). The organic layer is separated, dried over MgSO4, filtered, and concentrated in vacuo. The resulting precipitate is filtered to afford 0.38 g (16%) of the title compound as a brown solid. Physical characteristics: m.p. 167-169° C.; 1H NMR (400 MHz, CDCl3)δ 7.67, 7.57, 7.43, 3.98, 3.68, 2.50; IR (diffuse reflectance) 2816, 1731, 1615, 1515, 1353, 1279, 1200, 1172, 1133, 1121, 1106, 1026, 867, 809, 749 cm−1; MS (ESI+) 386; HRMS (FAB) m/z 386.1180 (C19H19N3O4S+H). Anal. Found: C, 59.14; H, 5.02; N, 10.48.

reactant | methyl (2Z)-3-(2-chloro-5-(4-morpholinylmethyl)-3-thienyl)-3-oxo-2-(phenylhydrazono)propanoate | 2.67 g | ClC=1SC(=CC1C(/C(/C(=O)OC)=N/NC1=CC=CC=C1)=O)CN1CCOCC1 | C19H20ClN3O4S
reactant | NaH | 0.43 g | [H-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Methyl 6-(4-Morpholinylmethyl)-4-oxo-1-phenyl-1,4-dihydrothieno[2,3-c]-pyridazine-3-carboxylate | 0.38 g, 16% | N1(CCOCC1)CC1=CC2=C(N(N=C(C2=O)C(=O)OC)C2=CC=CC=C2)S1 | C19H19N3O4S
